US08487102B2
b) 1-Benzyl-4-chloro-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester
A solution of 2-[(2-benzyl-2H-pyrazol-3-ylamino)-methylene]-malonic acid diethyl ester (7.0 g, 0.020 mol) in POCl3 (50 mL) was heated at reflux (130° C.) for 8 hours. The excess of POCl3 were distilled off and the reaction mixture cooled to 0° C., before careful addition of water (100 mL) and then aqueous NaOH (3N) until pH reached 7. The product was extracted with CH2Cl2 several times, and the combined orgnic phase were dried over Na2SO4 and concentrated under vacuo. Column chromatography (SiO2, EtOAc/Heptane 1/6) afforded 4.10 g (65%) of the title product as a white solid.

reactant | 2-[(2-benzyl-2H-pyrazol-3-ylamino)-methylene]-malonic acid diethyl ester | 0.020 mol, 7.0 g | C(C)OC(C(C(=O)OCC)=CNC=1N(N=CC1)CC1=CC=CC=C1)=O | C18H21N3O4
reactant | POCl3 | 50 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-Benzyl-4-chloro-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 4.10 g, 65% | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC2=CC=CC=C2)Cl | C16H14ClN3O2
